US05246949
(1) Synthesis of 3,4-di-O-nicotinoyl-N -carbobenzoxydopamine
19.0 g (66 mmol) of N-carbobenzoxydopamine obtained in Synthetic Example 1-(1) and 37.2 g (209 mmol) of hydrochloride of nicotinoyl chloride were added to 200 ml of pyridine. After stirring at room temperature for 12 hours, the mixture was allowed to react at 35°-40° C. for 2 hours. Then, the reaction mixture was poured into ice and a sodium carbonate solution followed by extraction with chloroform. The resulting extract was dried over anhydrous magnesium sulfate and the solvent was distilled off to obtain crude crystals. The thus-obtained crystals were recrystallized from ethyl acetate/diethyl ether (1:5 by volume) to obtain 23.5 g (yield: 71.6%) of the desired compound in the form of white crystals (m.p. 77°-78° C.).

reactant | N-carbobenzoxydopamine | 66 mmol, 19.0 g | C(=O)(OCC1=CC=CC=C1)NCCC1=CC(O)=C(O)C=C1 | C16H17NO4
reactant | hydrochloride | 209 mmol, 37.2 g | Cl | ClH
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-di-O-nicotinoyl-N -carbobenzoxydopamine | 23.5 g, yield: 71.6% | C(C1=CN=CC=C1)(=O)OC=1C=C(CCNC(=O)OCC2=CC=CC=C2)C=CC1OC(C1=CN=CC=C1)=O | C28H23N3O6
